US07625908B2
5-(2-Chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]quinazolin-4-amine (0.400 g) and ethylamine (1.2 g) were heated at 50° C. overnight and then the solution purified by chromatography using DCM to 10% 7N ammonia in methanol in DCM to give N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(ethylamino)ethoxy]quinazolin-4-amine; Mass spectrum MH+ 450.

reactant | 5-(2-Chloroethoxy)-N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]quinazolin-4-amine | 0.400 g | ClCCOC1=C2C(=NC=NC2=CC=C1)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)Cl | C22H18Cl2N4O2
reactant | ethylamine | 1.2 g | C(C)N | C2H7N
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(ethylamino)ethoxy]quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCNCC | C24H24ClN5O2
